### PR TITLE
[Merged by Bors] - chore: use `edist` instead of `dist` in `TendstoInMeasure`

### PR DESCRIPTION
**Pull request by RemyDegenne**
With this change, we can use `TendstoInMeasure` in an extended metric space.

Useful for the Brownian motion project.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Function/ConvergenceInMeasure.lean [hunk 1]
```diff
@@ -50,54 +50,68 @@ variable {α ι κ E : Type*} {m : MeasurableSpace α} {μ : Measure α}
...
-  ∀ ε, 0 < ε → Tendsto (fun i => μ { x | ε ≤ dist (f i x) (g x) }) l (𝓝 0)
+def TendstoInMeasure [EDist E] {_ : MeasurableSpace α} (μ : Measure α) (f : ι → α → E)
+    (l : Filter ι) (g : α → E) : Prop :=
+  ∀ ε, 0 < ε → Tendsto (fun i => μ { x | ε ≤ edist (f i x) (g x) }) l (𝓝 0)
+
+theorem tendstoInMeasure_iff_enorm [SeminormedAddCommGroup E] {l : Filter ι} {f : ι → α → E}
+    {g : α → E} :
+    TendstoInMeasure μ f l g ↔
+      ∀ ε, 0 < ε → Tendsto (fun i => μ { x | ε ≤ ‖f i x - g x‖ₑ }) l (𝓝 0) := by
+  simp_rw [TendstoInMeasure, edist_dist, dist_eq_norm, ofReal_norm]
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Function/ConvergenceInMeasure.lean]:
```suggestion
  simp_rw [TendstoInMeasure, edist_eq_enorm_sub]
```

File: Mathlib/MeasureTheory/Function/ConvergenceInMeasure.lean [hunk 2]
```diff
@@ -50,54 +50,68 @@ variable {α ι κ E : Type*} {m : MeasurableSpace α} {μ : Measure α}
 /-- A sequence of functions `f` is said to converge in measure to some function `g` if for all
 `ε > 0`, the measure of the set `{x | ε ≤ dist (f i x) (g x)}` tends to 0 as `i` converges along
 some given filter `l`. -/
-def TendstoInMeasure [Dist E] {_ : MeasurableSpace α} (μ : Measure α) (f : ι → α → E) (l : Filter ι)
-    (g : α → E) : Prop :=
-  ∀ ε, 0 < ε → Tendsto (fun i => μ { x | ε ≤ dist (f i x) (g x) }) l (𝓝 0)
+def TendstoInMeasure [EDist E] {_ : MeasurableSpace α} (μ : Measure α) (f : ι → α → E)
+    (l : Filter ι) (g : α → E) : Prop :=
+  ∀ ε, 0 < ε → Tendsto (fun i => μ { x | ε ≤ edist (f i x) (g x) }) l (𝓝 0)
```
Comment (ADedecker) [inline Mathlib/MeasureTheory/Function/ConvergenceInMeasure.lean:55]: I assume you've thought about it, but is switching the epsilon to ENNReal the best solution? Is it worth adding lemmas allowing users to only prove things only for real epsilons? Maybe it doesn't matter in practice.

**Review by ADedecker — COMMENTED** [review]
(Not a full review, just two remarks)

File: Mathlib/MeasureTheory/Function/ConvergenceInMeasure.lean (hunk 2 above)
Comment (RemyDegenne) [reply Mathlib/MeasureTheory/Function/ConvergenceInMeasure.lean:55]: I added lemmas to use only finite or real epsilons when the space is `MetricSpace` instead of `EMetricSpace`.

**Comment by EtienneC30** [comment]
Thanks!
maintainer merge

**Comment by sgouezel** [comment]
bors r+
Thanks!
